US04122265
A solution of 13.6 g. of triphenylphosphine in 40 ml. of carbon tetrachloride and 24 ml. of dioxane is treated with 14.3 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-hydroxypropyl)methylamide and the mixture is subsequently boiled at reflux for 1 hour. After cooling, the mixture is concentrated to dryness under reduced pressure. The residual oil is chromatographed on 800 g. of silica gel using methylene chloride/ethyl acetate (4:1) for the elution. The homogeneous fractions yield analytically pure 5-chloro-2-methyl-3-phenylisoindole-1-carboxyic acid (3-chloropropyl)methylamide as a thick yellow oil.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-hydroxypropyl)methylamide | OCCCN(C(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | C20H21ClN2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxyic acid (3-chloropropyl)methylamide | ClCCCN(C(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)C | C20H20Cl2N2O
